US05972978
2-Bromomethyinaphthalene (5.00 g, 22.6 mmol) was dissolved in N,N'-dimethylformamide (100 ml) and potassium carbonate (9.4 g, 68 mmol) and 3-bromophenol (3.91 g, 22.6 mmol) were added. The mixture was stirred vigorously for 16 h at room temperature and then poured into water (700 ml). The precipitate was filtered off, washed with water and dried in vacuo at 50° C. for 16 h to give 6.17 g (87%) of 2-(3-bromophenoxymethyl)naphthalene as a solid.

reactant | 2-Bromomethyinaphthalene | 22.6 mmol, 5.00 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | 68 mmol, 9.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromophenol | 22.6 mmol, 3.91 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | water | 700 ml | O | H2O
solvent | N,N'-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
product | 2-(3-bromophenoxymethyl)naphthalene | 6.17 g, 87% | BrC=1C=C(OCC2=CC3=CC=CC=C3C=C2)C=CC1 | C17H13BrO
